US08039472B2
((S)-4,5-Diamino-pentyl)-carbamic acid benzyl ester
((S)-4-Amino-4-carbamoyl-butyl)-carbamic acid benzyl ester (1.87 g, 7.071 mmol) is suspended in dry THF (40 ml) and cooled to 10° C. in an ice bath under nitrogen. Borane (28.3 ml of a 1 M solution in THF, 28.3 mmol) is added. The ice bath is removed and the suspension heated to 70° C. and then left to stir at this temperature for 3 hours. Further borane (28.3 ml of a 1 M solution in THF, 28.3 mmol) is added and then after an hour the same amount of 1M borane in THF is added again. After a final hour at 70° C. the reaction mixture is quenched with MeOH (40 ml). The solvent is reduced in vacuo to approximately 50 ml. This is diluted with 5 M HCl (100 ml) and washed with diethyl ether (3×100 ml). The aqueous phase is basified to pH12 with 2N NaOH and product extracted into EtOAc (3×100 ml). The organic phases are combined, dried over MgSO4 and the solvent evaporated in vacuo to yield the title compound as a colourless oil.

reactant | ((S)-4-Amino-4-carbamoyl-butyl)-carbamic acid benzyl ester | 7.071 mmol, 1.87 g | C(C1=CC=CC=C1)OC(NCCC[C@@H](C(N)=O)N)=O | C13H19N3O3
reactant | Borane | B | BH3
solvent | THF | 40 ml | C1CCOC1 | C4H8O
product | ((S)-4,5-Diamino-pentyl)-carbamic acid benzyl ester | C(C1=CC=CC=C1)OC(NCCC[C@@H](CN)N)=O | C13H21N3O2
